2163-04-23 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2163-4-22**] 03:00 PM
 FEVER - 101.2
F - [**2163-4-23**] 12:00 AM
   Events [**2163-4-22**]:
   -spiked temp to 101. Cultured in past 8 hours. tylenol given.
   -AM CXR concern for cavitary lesion
   -CT chest obtained that showed large pneumonia, but no cavitary
   lesions.
   -became hypotensive into 90s after dialysis and was symptomatically
   dizzy/lightheaded.  Received slow 250cc saline bolus with resolution of
   hypotension and symptomatic orthostasis.
   -Pt was started on heparin gtt this morning based on upward trending
   troponin levels.
   Allergies:
   Hydralazine Hcl (Oral)
   Nausea/Vomiting
   Iodine; Iodine Containing
   Renal Toxicity;
   Last dose of Antibiotics:
   Azithromycin - [**2163-4-21**] 11:25 PM
   Ceftriaxone - [**2163-4-22**] 12:00 AM
   Ampicillin - [**2163-4-22**] 02:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-4-23**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-4-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.8
C (98.2
   HR: 78 (74 - 102) bpm
   BP: 165/54(83) {103/38(55) - 180/65(90)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    890 mL
                  PO:
                                                                    490 mL
                  TF:
   IVF:
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                      0 mL
   Urine:
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,880 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General: Pt OOB in chair receiving neb treatment
   HEENT: mmm, neb mask in place
   CV: RRR, no m/r/g
   Lungs: Decreaased BS b/l, with bibasilar rales. Resp are shallow and
   become labored with effort at deep inspiration. This also provokes
   coughing (dry)
   Abdomen: soft, NT/ND, +BS
   Extremities: feet warm, palpable distal pulses
   Skin: Dry/scaling, worse in LE
   Labs / Radiology
   156 K/uL
   11.2 g/dL
   163 mg/dL
   4.5 mg/dL
   32 mEq/L
   4.3 mEq/L
   27 mg/dL
   93 mEq/L
   137 mEq/L
   30.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2163-4-21**]  10:47 PM
                             [**2163-4-22**]  06:45 AM
                             [**2163-4-22**]  06:49 AM
                             [**2163-4-22**]  08:18 AM
                             [**2163-4-22**]  05:30 PM
                             [**2163-4-23**]  04:09 AM
   WBC
   9.1
   7.1
   Hct
   32.5
   30.7
   Plt
   155
   156
   Cr
   5.9
   6.6
   4.5
   TropT
   0.51
   0.54
   0.55
   0.76
   0.80
   TCO2
   32
   Glucose
   189
   134
   163
   Other labs: PT / PTT / INR:12.5/23.5/1.1, CK / CKMB /
   Troponin-T:337/2/0.80, Lactic Acid:0.7 mmol/L, Ca++:7.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   62F with medical history of DM, PVD, ESRD on HD, COPD with altered
   mental status and shortness of breath found to be hypoxic with
   leukocytosis and consolidation on imaging consistent with pneumonia.
   .
   ALTERED MENTAL STATUS: The differential includes hypoxemia, hypocapnia
   or some combination of the two or possibly infection resulting in
   encephalopathy. Possible that developed mucus plug with hypoxemia with
   resolution and significant improvement on BIPAP.
   - goal O2 sat 90-92%
   - ABG if mental status changes
   - antibiotics for pneumonia as below
   .
   #HYPOXIA: Likely that pulmonary infection resulted in V/Q mismatch
   contributing to low SpO2. [**Month (only) 51**] be some element of bronchoconstriction
   contributing with improvement on nebs. Patient with diastolic heart
   failure but appears clinically euvolemic with possibly mild pulmonary
   edema on plain film. ACS considered although no EKG changes. Currently
   patient comfortable w/ O2 sats in low 90s on nasal cannula.
   - continuous O2 monitoring
   - supplemental O2 to goal 90-92%
   - antibiotics for pneumonia as below
   - Duonebs standing and PRN
   - BNP not indicative of CHF
   - trend cardiac enzymes.
   .
   PNEUMONIA: The shortness of breath, cough, elevated white count with
   left shift and RUL infiltrate on chest film are consistent with
   pneumonia. Given her history of dialysis, she meets the definition for
   a healthcare acquired infection.  She is immune competant and has a
   CURB-65 score of 2 (confusion, elevated BUN). CT scan shows pneumonia
   but no evidence of cavitation (as appeared on CXR).
   - sputum culture
   - f/u blood cultures
   - Continue ceftriaxone, azithromycin, ; can discontinue unasyn as no
   cavitary lesion and start vancomycin
   - supportive treatment of cough
   - Duonebs
   .
   POSITIVE CARDIAC BIOMARKERS: Patient with [**Location (un) 1204**] risk factors of DM
   and PVD presents with SOB, without significant ST changes on EKG and
   elevated cardiac biomarkers. While can expect some elevation of cardiac
   biomarkers in setting of ESRD, this appears to be much higher than
   previously recorded values and troponins continue to trend up. While
   unlikley to be ACS given absence of EKG changes, Elevated troponin may
   be due to demand ischemia, sepsis, tachyarrhythmia, heart failure.
   - monitor on telemetry
   - re-check daily EKG
   - trend CE
   - continue aspirin
   - continue statin
   - continue beta blocker
   - continue heparin gtt/telemetry
   - re-consult cardiology regarding increasing troponin
   .
   ESRD: Patient with ESRD on hemodialysis on Monday/Wednesday/Friday
   schedule currently being evaluated for renal transplant. Patient with
   electrolytes at baseline.  Last HD [**2163-4-22**] with 3 L of fluid removed.
   - Hemodialysis on M/W/F
   - Consult renal given need for HD in house
   - continue on calcium acetate and calcitriol
   .
   PVD
   - continue aspirin
   - continue plavix
   .
   DM:
   - continue home insulin regimen with ISS
   - patient reports that she takes humalog as her sliding scale.  Will
   clarify today her home regimen.
   .
   HYPERTENSION:
   - continue labetalol, amlodipine, lisinopril
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication:  [**Name (NI) 14363**] (husband) [**Telephone/Fax (1) 14364**]
   # Code:  Full (discussed with patient)
   # Disposition: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-4-22**] 03:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: